US07713973B2
2,6-Dichloro-pyrimidin-4-ylamine and 3-bromo-2-oxo-propionic acid ethyl ester were reacted to provide 5,7-dichloro-imidazo[1,2-c]pyrimidine-2-carboxylic acid ethyl ester. The title compound was prepared from 5,7-dichloro-imidazo[1,2-c]pyrimidine-2-carboxylic acid ethyl ester and 5-methyl-1H-pyrazol-3-ylamine according to the procedure described in Scheme 7. 1H NMR (400 MHz, DMSO) 10.81 (s, 1H) 9.10 (s, 1H) 7.10 (s, 1H) 6.48 (s, 1H) 4.37 (q, J=7.2 Hz 2H) 2.28 (s, 3H) 1.33 (t, J=7.2 Hz, 3H). [M+H] calc'd for C13 H14ClN6O2, 321; found, 321.

reactant | 2,6-Dichloro-pyrimidin-4-ylamine | ClC1=NC(=CC(=N1)N)Cl | C4H3Cl2N3
reactant | 3-bromo-2-oxo-propionic acid ethyl ester | C(C)OC(C(CBr)=O)=O | C5H7BrO3
product | 5,7-dichloro-imidazo[1,2-c]pyrimidine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(C(=NC(=C2)Cl)Cl)C1 | C9H7Cl2N3O2
